US05932695
Bromoacetic acid (167 mg, 1.2 mmol) and diisopropylcarbodiimide (94 mm3, 0.6 mmol) were added to a suspension of the resin (4-(O-methylhydroxylamine) phenoxymethyl-copoly(styrene-1% divinylbenzene)-resin (100-200 mesh)) prepared according to Example 1 (250 mg, 0.1 mmol) in DMF (6 cm3). The mixture was agitated for 90 minutes and then the solution was drained from the resin which was washed and dried as described above in Example 1. The resin was soaked in DMSO (2 cm3) and a solution of n-decylamine in DMSO (5 cm3 of a 2M solution, 10 mmol) was added and the mixture shaken for 4 h before the resin was drained and washed thoroughly as before. The resin was then suspended in DMF and 2-acetamido4-methyl-5-thiazolesulfonylchloride (102 mg, 0.4 mmol) was added. The mixture was heated at 60° for 8 h and then the resin was drained, washed and dried as described previously. Cleavage from the resin as in Example A gave a white solid which was purified by column chromatography (10% methanol-dichloromethane; silica) to give the desired 2-(N-decyl-2-acetamido4-methylthiazol-5-ylsulfonamido)-acetohydroxamic acid (23 mg, 51%) as a white solid; 1H NMR (CDCl3) δ3.83 (2H, m), 3.05 (2H, m), 2.52 (3H, s, Me), 2.35 (3H, s, NHCOMe), 1.69 (2H, m), 1.15-1.25 (14H, m, alkyl), 0.87 (3H, t, J=7.2 Hz, CH3 -alkyl).

reactant | Bromoacetic acid | 1.2 mmol, 167 mg | BrCC(=O)O | C2H3BrO2
reactant | diisopropylcarbodiimide | 0.6 mmol, 94 mm3 | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 2-acetamido4-methyl-5-thiazolesulfonylchloride | 0.4 mmol, 102 mg | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | DMF | 6 cm3 | CN(C)C=O | C3H7NO
product | 2-(N-decyl-2-acetamido4-methylthiazol-5-ylsulfonamido)-acetohydroxamic acid | 23 mg, 51% | C(CCCCCCCCC)N(S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)CC(=O)NO | C18H32N4O5S2
